US09029545B2
{3-Methyl-1-[3-(methyloxy)phenyl]butylidene}propanedinitrile
To a stirred solution of acetic acid (14.36 mL, 251 mmol), was added hexamethyldisilazane (7.01 mL, 33.5 mmol) dropwise. The resulting solution was added to a solution of 3-methyl-1-[3-(methyloxy)phenyl]-1-butanone (4.02 g, 20.91 mmol) (Description 18) and malononitrile (2.76 g, 41.8 mmol) in acetic acid (15 mL). The mixture was stirred for 7 h at 70° C. The solution was cooled to RT and partitioned between toluene (167 mL) and water (130 mL). The aqueous layer was further extracted with toluene (70 mL). The combined organic layers were concentrated, and purified by chromatography on silica gel, eluting with DCM, to afford the title compound (4.42 g). LCMS (B) m/z: 241 [M+1]+, Rt 3.14 min.

reactant | hexamethyldisilazane | 33.5 mmol, 7.01 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 3-methyl-1-[3-(methyloxy)phenyl]-1-butanone | 20.91 mmol, 4.02 g | CC(CC(=O)C1=CC(=CC=C1)OC)C | C12H16O2
reactant | malononitrile | 41.8 mmol, 2.76 g | C(CC#N)#N | C3H2N2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 251 mmol, 14.36 mL | C(C)(=O)O | C2H4O2
product | {3-Methyl-1-[3-(methyloxy)phenyl]butylidene}propanedinitrile | 4.42 g | CC(CC(C1=CC(=CC=C1)OC)=C(C#N)C#N)C | C15H16N2O
